US08686007B2
(S)-2-(4-Fluorophenyl)propan-1-ol.
To a room-temperature solution of (S)-4-benzyl-3-((S)-2-(4-fluorophenyl)propanoyl)oxazolidin-2-one (1.8 g, 5.5 mmol, 1.0 equiv) in THF (18 mL) was added a solution of NaBH4 (1.0 g, 26.4 mmol, 4.8 equiv) in water (6 mL). The reaction mixture was stirred for 3 h at room temperature and then quenched by the careful addition of aq. 1 M HCl. The reaction mixture was diluted with water and ethyl acetate. The layers were separated and the organic layer was subsequently washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. Purification by silica gel chromatography (10-75% EtOAc/Hexanes) provided the title compound (0.824 g, 97%) which was characterized by 1H NMR.

reactant | (S)-4-benzyl-3-((S)-2-(4-fluorophenyl)propanoyl)oxazolidin-2-one | 5.5 mmol, 1.8 g, 1.0 equiv | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@@H](C)C1=CC=C(C=C1)F)=O | C19H18FNO3
reactant | NaBH4 | 26.4 mmol, 1.0 g, 4.8 equiv | [BH4-].[Na+]
solvent | THF | 18 mL | C1CCOC1 | C4H8O
solvent | water | 6 mL | O | H2O
product | (S)-2-(4-Fluorophenyl)propan-1-ol | 0.824 g, 97% | FC1=CC=C(C=C1)[C@@H](CO)C | C9H11FO
